US05659084
A stirred solution of N-[(2-methylphenyl)methylene]-1,1-dimethylethanamine (11.2 g, 0.064 mol) and 2,2,6,6-tetra-methylpiperidine (0.9 g, 0.0064 mol) in tetrahydrofuran (40 mL) was cooled to -5° C. To this was added n-BuLi (1.6M, 40 mL, 0.064 mol) over 60 min from a syringe pump such that the temperature was maintained below 0° C. The mixture was stirred for 30 min and 1-chloro-7-phenylheptane (11.23 g, 0.053 mol) in tetrahydrofuran (20 mL) quickly added. The reaction mixture was heated at 50°-55° C. for 2 h. The reaction mixture was cooled to 40° C. and quenched by the slow addition of dilute hydrochloric acid (100 mL of acid diluted with 300 mL of water). Hydrolysis was completed by heating the mixture at 50°-60° C. for 2.5 h. The mixture was cooled to ambient temperature and the organic phase separated. The aqueous phase was extracted with hexane (100 mL) and the combined organic extracts washed with water (100 mL). The extracts were dried over magnesium sulphate and after filtering and washing the filter cake with hexane the organic solution was concentrated under vacuum to give 2-(8-phenyloctyl)benzaldehyde as an oil (14.5 g, 69.3% pure by HPLC assay, 87% corrected yield).

reactant | N-[(2-methylphenyl)methylene]-1,1-dimethylethanamine | 0.064 mol, 11.2 g | CC1=C(C=CC=C1)C=NC(C)(C)C | C12H17N
reactant | 2,2,6,6-tetra-methylpiperidine | 0.0064 mol, 0.9 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-BuLi | 0.064 mol, 1.6M, 40 mL | [Li]CCCC
reactant | 1-chloro-7-phenylheptane | 0.053 mol, 11.23 g | ClCCCCCCCC1=CC=CC=C1 | C13H19Cl
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(8-phenyloctyl)benzaldehyde | C1(=CC=CC=C1)CCCCCCCCC1=C(C=O)C=CC=C1 | C21H26O
